US04650753
2.69 Grams (5 m moles) of H-Phe-Arg(NO2)-CHA.HCl was dissolved in 10 ml of 1.5N-NEM/DMF, to this solution was added 1.73 g (5 m moles) of Z-D-Ala-SDP at 0° to 5° C., the reacted at room temperature for 18 hours. After the reaction was completed, the reaction mixture was diluted with 150 ml of AcOEt, the washed 3 times with 50 ml of cold 5%-hydrochloric acid and washed twice with 50 ml of an aqueous solution saturated with sodium chloride, then decolored and dried with activated carbon and anhydrous magnesium sulfate. After the drying, magnesium sulfate and activated carbon were removed by filtration, and the solvent was removed from the filtrate by evaporation under reduced pressure to obtain crude product of Z-D-Ala-Phe-Arg(NO2)-CHA, recrystallized from MeOH/AcOEt/n-hexane to obtain 2.8 g (80.0%) of Z-D-Ala-Phe-Arg(NO2)-CHA.

reactant | H-Phe-Arg(NO2) | N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CCCNC(N[N+](=O)[O-])=N)C(=O)O | C15H22N6O5
reactant | HCl | Cl | ClH
reactant | Z-D-Ala | 1.73 g | N([C@H](C)C(=O)O)C(=O)OCC1=CC=CC=C1 | C11H13NO4
solvent | DMF | CN(C)C=O | C3H7NO
solvent | AcOEt | 150 ml | CCOC(=O)C | C4H8O2
product | Z-D-Ala-Phe-Arg(NO2) | N([C@H](C)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CCCNC(N[N+](=O)[O-])=N)C(=O)O)C(=O)OCC1=CC=CC=C1 | C26H33N7O8
